US07541481B2
1.1. Preparation of 2-[2-(1H-inden-3-yl)ethyl]pyridine (as described by H. Dressler and R. J. Kurland, J. Org. Chem. 291 p. 175-178)
43 g (0.47 mol) of 2-vinylpyridine were added to a mixture of 56 ml (0.48 mol) of indene in 40 ml of toluene and 4 g (0.036 mol) of solid potassium tert-butoxide at 60-90° C. over a period of 40 minutes. The mixture was then stirred for another 2 hours at 115° C., cooled to room temperature and subsequently neutralized by means of 2 ml of glacial acetic acid. Insoluble constituents were filtered off and the filtrate was distilled under reduced-pressure. This gave 42 g of 2-[2-(1H-inden-3-yl)ethyl]pyridine (40%, b.p. 161-163° C. at 2 mm).

reactant | 2-vinylpyridine | 0.47 mol, 43 g | C(=C)C1=NC=CC=C1 | C7H7N
reactant | indene | 0.48 mol, 56 ml | C1C=CC2=CC=CC=C12 | C9H8
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(1H-inden-3-yl)ethyl]pyridine | C1C=C(C2=CC=CC=C12)CCC1=NC=CC=C1 | C16H15N
